US04638005
1-Methyl-3-(1,2-dihydroxyethyl)pyrazinium iodide (2200)
2.8 g of 2-(1,2-dihydroxyethyl) pyrazine (2100) was dissolved in 20 ml of methanol, 10 ml of methyl iodide added and the solution refluxed for 3 days. The solvent was then removed, the residue taken up in 100 ml of water and washed with chloroform. The aqueous solution was concentrated and purified by gel permeation chromatography (Biogel P-2/water). Freeze-drying yielded 3.7 g product (2200) which was recrystallized from ethyl acetate/ethanol, m.p. 105°-6°. UV H2O Max: 227 (4.13), 281 (3.83).

reactant | 2-(1,2-dihydroxyethyl) pyrazine | 2.8 g | OC(CO)C1=NC=CN=C1 | C6H8N2O2
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | methanol | 20 ml | CO | CH4O
product | 1-Methyl-3-(1,2-dihydroxyethyl)pyrazinium iodide | 3.7 g | [I-].C[N+]1=CC(=NC=C1)C(CO)O | InChI=1S/C7H11N2O2.HI/c1-9-3-2-8-6(4-9)7(11)5-10;/h2-4,7,10-11H,5H2,1H3;1H/q+1;/p-1
